US08283353B2
4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (1 g) and N-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-amine (0.25 g) was stirred at 250° C. for 15 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.3 g, 44%).

reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 1 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | N-(tetrahydro-2H-pyran-4-yl)-4H-1,2,4-triazol-3-amine | 0.25 g | O1CCC(CC1)NC1=NN=CN1 | C7H12N4O
product | 4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.3 g, 44% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCOCC2 | C27H27N5O2
